US07635711B2
Synthesis of 2,4-Dichloro-6-hydroxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide
To a solution of 30 mg (0.06 mmol) of 2,4-dichloro-6-methoxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide in 2 mL of dichloromethane was added 1 mL (1 mmol) of 1 M boron tribromide in CH2Cl2. After 1 hour, the reaction was cooled in an ice-water bath and cautiously quenched with 5-10 mL of methanol with stirring. The mixture was warmed to room temperature and the residue was dissolved in ethyl acetate and washed with three 20 mL portions of 1 M aqueous HCl, saturated aqueous sodium bicarbonate solution, and brine. The organic layers was dried over sodium sulfate, decanted, and concentrated in vacuo. The product crystallized upon concentration to afford 4 mg (13%) of the title compound.

reactant | 2,4-dichloro-6-methoxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 0.06 mmol, 30 mg | ClC1=C(C(=CC(=C1)Cl)OC)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C18H15Cl2F3N2O3S
reactant | boron tribromide | 1 mmol, 1 M, 1 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-6-hydroxy-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]benzenesulfonamide | 4 mg, 13% | ClC1=C(C(=CC(=C1)Cl)O)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C17H13Cl2F3N2O3S
